US06075018
1-[2-(1-Naphtyl)-vinyl]-4-methyl-7,8-dimethoxy-3,4-dihydro-5H-2,3-benzodiazepine
To a solution of 5.35 g (14.3 mmoles) of 1-[2-(1-naphtyl)-vinyl]-4-methyl-7,8-dimethoxy-5H-2,3-benzodiazepine in 30 ml of glacial acetic acid a solution of 1.76 g (46.3 mmoles) of sodium borohydride in 10 ml of water is dropped at 50° C., under stirring, and the reaction mixture is stirred further for 2 hours. The product is then stirred with 250 ml of water, made alkaline with ammonium hydroxide solution, the separated yellow precipitate is filtered, washed with water and recrystallized from isopropanol. Thus 3.75 g (70.5%) of the desired compound are obtained.

reactant | 1-[2-(1-naphtyl)-vinyl]-4-methyl-7,8-dimethoxy-5H-2,3-benzodiazepine | 14.3 mmoles, 5.35 g | C1(=CC=CC2=CC=CC=C12)C=CC1=NN=C(CC2=C1C=C(C(=C2)OC)OC)C | C24H22N2O2
reactant | sodium borohydride | 46.3 mmoles, 1.76 g | [BH4-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | 1-[2-(1-Naphtyl)-vinyl]-4-methyl-7,8-dimethoxy-3,4-dihydro-5H-2,3-benzodiazepine | 3.75 g, 70.5% | C1(=CC=CC2=CC=CC=C12)C=CC1=NNC(CC2=C1C=C(C(=C2)OC)OC)C | C24H24N2O2
